US09376418B2
A solution of ethyl 2,2-difluoro-3-hydroxy-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate (86.9 mg, 0.180 mmol), anhydrous DMF (1.00 mL), DBU (0.170 mL, 1.13 mmol) and CS2 (0.110 mL, 1.83 mmol) was stirred at room temperature for 1 hour under Ar(g). Methyliodide (0.110 mL, 1.76 mmol) was added to the reaction mixture and t stirred for 45 minutes at room temperature. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure and the residue was purified by silica gel chromatography (20% ethyl acetate in hexanes) to afford ethyl 2,2-difluoro-3-{[(methylsulfanyl)carbonothioyl]oxy}-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate. MS APCI C24H22F5N4O3S2 [M+H]+ 573. found 573.

reactant | ethyl 2,2-difluoro-3-hydroxy-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate | 0.180 mmol, 86.9 mg | FC(C(=O)OCC)(C(C1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)O)F | C22H19F5N4O3
reactant | DBU | 1.13 mmol, 0.170 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | CS2 | 1.83 mmol, 0.110 mL | C(=S)=S | CS2
reactant | Methyliodide | 1.76 mmol, 0.110 mL | CI | CH3I
solvent | water | O | H2O
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | ethyl 2,2-difluoro-3-{[(methylsulfanyl)carbonothioyl]oxy}-3-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]propanoate | FC(C(=O)OCC)(C(C1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)OC(=S)SC)F | C24H21F5N4O3S2
